US05864039
1,2-Methylenedioxybenzene (1.18 g), 6-bromohexanoyl chloride (2.0 g) and aluminum chloride (1.31 g) were reacted and treated in the same manner as in Preparation Example 105 to give 1.22 g of 6-bromo-1-(3,4-methylenedioxyphenyl)-1-hexanone.

reactant | 1,2-Methylenedioxybenzene | 1.18 g | C1OC2=C(C=CC=C2)O1 | C7H6O2
reactant | 6-bromohexanoyl chloride | 2.0 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminum chloride | 1.31 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-bromo-1-(3,4-methylenedioxyphenyl)-1-hexanone | 1.22 g | BrCCCCCC(=O)C1=CC2=C(C=C1)OCO2 | C13H15BrO3
